US05767299
(d) Potassium 3,5-diacetylamino-2,4,6-triiodobenzoate
A suspension of 3,5-diacetylamino-2,4,6-triiodobenzoic acid (0.5 g, 0.81 mmol) in water (5 ml) was heated to 60° C. and an aqueous solution of KOH prepared by dissolving KOH (46 mg, 0.81 mmol) in water (2 ml) was added. A solution of 0.5N KOH was added dropwise to the suspension to adjust it to pH 7. Water was removed under reduced pressure to give a residue which was washed twice with ethanol and dried under reduced pressure.

reactant | 3,5-diacetylamino-2,4,6-triiodobenzoic acid | 0.81 mmol, 0.5 g | C(C)(=O)NC=1C(=C(C(=O)O)C(=C(C1I)NC(C)=O)I)I | C11H9I3N2O4
reactant | KOH | [OH-].[K+]
reactant | KOH | 0.81 mmol, 46 mg | [OH-].[K+]
reactant | KOH | 0.5N | [OH-].[K+]
solvent | water | 5 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | Potassium 3,5-diacetylamino-2,4,6-triiodobenzoate | C(C)(=O)NC=1C(=C(C(=O)[O-])C(=C(C1I)NC(C)=O)I)I.[K+] | InChI=1S/C11H9I3N2O4.K/c1-3(17)15-9-6(12)5(11(19)20)7(13)10(8(9)14)16-4(2)18;/h1-2H3,(H,15,17)(H,16,18)(H,19,20);/q;+1/p-1
